US04414225
4-Chloro-5-formyl-2,3,6,7-tetrahydro-1H-azepine hydrobromide
10.5 gm (0.036 mol) of benzyl 4-chloro-5-formyl-2,3,6,7-tetrahydro-1H-1-azepine-carboxylate were mixed with 100 ml of a 40% solution of hydrogen bromide in glacial acetic acid, while stirring and cooling with ice. The mixture was then stirred for 3 hours at room temperature. It was then concentrated by evaporation in a rotary evaporator, and the residue was triturated with ether. After the ether had been decanted several times, the product was suction-filtered and washed twice with absolute ether.

reactant | benzyl 4-chloro-5-formyl-2,3,6,7-tetrahydro-1H-1-azepine-carboxylate | 0.036 mol, 10.5 gm | ClC=1CCN(CCC1C=O)C(=O)OCC1=CC=CC=C1 | C15H16ClNO3
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Chloro-5-formyl-2,3,6,7-tetrahydro-1H-azepine hydrobromide | Br.ClC=1CCNCCC1C=O | InChI=1S/C7H10ClNO.BrH/c8-7-2-4-9-3-1-6(7)5-10;/h5,9H,1-4H2;1H
